US04412855
A solution consisting of 121 g (1.0 mole), of 2,6-xylidine, 70 g (0.5 mole) 1-bromo-2-propanol and 100 ml of absolute toluene is heated under reflux for 24 hours. After cooling 300 ml 2 N sodium hydroxide are added. The organic layer is separated, washed with water until neutral, dried over sodium sulfate and evaporated in vacuo. The crude product is fractionally distilled to yield 59.6 g of N-(2'-hydroxypropyl)-2,6-xylidine, b.p. 81°-83°/0.1 Torr.

reactant | 2,6-xylidine | NC=1C(=CC=CC1C)C | C8H11N
reactant | 1-bromo-2-propanol | 0.5 mole, 70 g | BrCC(C)O | C3H7BrO
reactant | sodium hydroxide | 2 N, 300 ml | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2'-hydroxypropyl)-2,6-xylidine | 59.6 g | OC(CNC=1C(=CC=CC1C)C)C | C11H17NO
